US06117826
Step 1: Preparation of the Sodium di(2-ethylhexyl)-dithiocarbamate Salt
50.0 grams (0.207 mol) of di(2-ethylhexyl)amine, 16.9 grams of a 50 wt % NaOH solution (0.211 mol NaOH), and 60 mL reagent 2-propanol were combined in a 250 mL 3-neck round bottom reaction flask equipped with an overhead stirrer, a thermocouple probe, a reflux condenser, a Clasien adapter and a 25 mL addition funnel. 12.7 mL (0.211 mol) carbon disulfide was charged into the addition funnel. Carbon disulfide was added dropwise over a 30 minute period. The reaction temperature was maintained at 20-25° C. over the course of the CS2 addition. The product was post-reacted at 25° C. for six hours.

reactant | di(2-ethylhexyl)amine | 0.207 mol, 50.0 grams | C(C)C(CNCC(CCCC)CC)CCCC | C16H35N
reactant | NaOH | 0.211 mol | [OH-].[Na+]
reactant | 2-propanol | CC(C)O | C3H8O
reactant | CS2 | C(=S)=S | CS2
reactant | carbon disulfide | 0.211 mol, 12.7 mL | C(=S)=S | CS2
product | Sodium di(2-ethylhexyl)-dithiocarbamate Salt | C(C)C(CN(C([S-])=S)CC(CCCC)CC)CCCC.[Na+] | InChI=1S/C17H35NS2.Na/c1-5-9-11-15(7-3)13-18(17(19)20)14-16(8-4)12-10-6-2;/h15-16H,5-14H2,1-4H3,(H,19,20);/q;+1/p-1
